US04259969
Preparation Of 2-(2-Hydroxy-2-phenylethyl)-3,5,6-trimethylpyrazine
A solution of phenyllithium in benzene-ether (90 milliliters, 0.095 mole) was diluted with 100 milliliters anhydrous ether and cooled to 0° C. A solution of 13.6 grams tetramethylpyrazine (0.1 mole) in 50 milliliters ether was added slowly to the phenyllithium solution. The reaction mixture was stirred at room temperature for 2 hours and heated under reflux for 1 hour. The mixture was allowed to cool to room temperature and a solution of 10 grams of freshly distilled benzaldehyde (0.1 mole) in 50 milliliters of ether was added dropwise. The mixture was stirred at room temperature for an additional 1.5 hours and cooled to 0° C. Water was added, and the organic phase was separated and washed three times with water. The recovered water extracts were washed with methylene chloride.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | tetramethylpyrazine | 0.1 mole, 13.6 grams | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
reactant | benzaldehyde | 0.1 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | Water | O | H2O
solvent | ether | 100 milliliters | CCOCC | C4H10O
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | ether | 50 milliliters | CCOCC | C4H10O
product | 2-(2-Hydroxy-2-phenylethyl)-3,5,6-trimethylpyrazine | OC(CC1=NC(=C(N=C1C)C)C)C1=CC=CC=C1 | C15H18N2O
